US08378107B2
Step 2: (3-Bromo-quinolin-2-ylmethyl)-ethyl-amine
3-Bromo-quinoline-2-carbaldehyde (3.34 g, 16.3 mmol), ethylamine (2M in MeOH; 9.78 mL, 19.6 mmol), and acetic acid (1.02 mL, 17.8 mmol) were combined in MeOH (25 mL) and stirred at 0° C. for 30 minutes. Sodium cyanoborohydride (1.53 g, 24.5 mmol) was added, and the reaction was monitored by analytical LCMS. The mixture was worked-up with saturated aqueous NaHCO3 and extracted with CH2Cl2, and the residue was purified by silica gel chromatography (0-5% MeOH in CH2Cl2) to give the title compound.

reactant | 3-Bromo-quinoline-2-carbaldehyde | 16.3 mmol, 3.34 g | BrC=1C(=NC2=CC=CC=C2C1)C=O | C10H6BrNO
reactant | ethylamine | 19.6 mmol, 2M, 9.78 mL | C(C)N | C2H7N
reactant | acetic acid | 17.8 mmol, 1.02 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 24.5 mmol, 1.53 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
product | (3-Bromo-quinolin-2-ylmethyl)-ethyl-amine | BrC=1C(=NC2=CC=CC=C2C1)CNCC | C12H13BrN2
